// testbench for inductor model with skin-effect
simulator lang=spectre
 
ahdl_include "lossy-inductor.va"
L1 (n 0) lossy_ind l=120nH esr=0.01 rcp=85 k=2.4e-4 cp=74fF
I1 (n 0) isource mag=1

dcop dc
acswp ac start=100mHz stop=100GHz dec=20
