// Test port model

simulator lang=spectre

ahdl_include "port2.vams"

P1  (n 0) port r=50 dc=1 mag=1
R1  (n 0) resistor r=50

doDC dc print=yes
doAC ac freq=1 
doNoise (n 0) noise freq=1 
