// Test ideal diode

simulator lang=spectre

ahdl_include "diode.vams"

Vin (in  0) vsource type=sine ampl=1 freq=1
R1  (in  out) resistor r=1
D1  (out 0) diode

dcSwp dc start=-1 stop=1 dev=Vin param=dc
sineResp tran start=0 stop=1.1 errpreset=conservative
