// Test adc model

simulator lang=spectre

ahdl_include "adc2.vams"
ahdl_include "dac2.vams"

Vin  (in 0) vsource type=sine ampl=0.5 dc=0.5 freq=1
Vclk (clk 0) vsource type=pulse val0=0 val1=1 period=1ms
ADC (b7 b6 b5 b4 b3 b2 b1 b0 in clk) adc vdd=1 td=100us tt=100us
DAC (out b7 b6 b5 b4 b3 b2 b1 b0 clk) dac vdd=1 td=100us tt=100us

sineResp tran stop=1
