* NMOS Id-Vds sweep (golden): vgs = 3 V fixed, rd/rs = 100 ohm series
* 26 points crossing linear -> saturation
Vd d 0 DC 0
Vg g 0 DC 3
M1 d g 0 0 NMOD L=2u W=10u
.model NMOD NMOS (level=1 vto=1 kp=2e-5 lambda=0.02 rd=100 rs=100)
.control
dc Vd 0 5 0.2
wrdata nmos_id_vds_sweep i(vd)
.endc
.end
