* NMOS level 3 diode-connected load
Vdd vdd 0 DC 5
R1 vdd d 10k
M1 d d 0 0 NMOD L=2u W=10u
.model NMOD NMOS (level=3 vto=1 kp=2e-5)
.control
op
print v(d)
.endc
.end
